US07507729B2
a) (2-Oxo-oxazolidin-3-yl)-acetic acid hydrazide
As described for example 112a, (2-oxo-oxazolidin-3-yl)-acetic acid ethyl ester (Potts, Kevin T.; Bhattacharjee, Debkumar; Kanemasa, Shuji. Journal of Organic Chemistry (1980), 45(24), 4985-8.) in ethanol was reacted with hydrazine hydrate (1 equivalent) at rt for 72 h. Evaporation of all volatiles and chromatography (SiO2, dichloromethane:methanol:aq.ammonia (25%)=100:0:0 to 90:10:1) afforded the title compound as a white solid (yield: 77%). MS: m/e=160.2 [M+H]+.

reactant | (2-oxo-oxazolidin-3-yl)-acetic acid ethyl ester | C(C)OC(CN1C(OCC1)=O)=O | C7H11NO4
reactant | hydrazine hydrate | 1 equivalent | O.NN
solvent | ethanol | C(C)O | C2H6O
product | (2-Oxo-oxazolidin-3-yl)-acetic acid hydrazide | yield: 77% | O=C1OCCN1CC(=O)NN | C5H9N3O3
